US06576653B2
2-Chloro-4H-furo[3,2-b]pyrrole-5-carboxylic acid ethyl ester
5-Chloro-furan-2-carbaldehyde (Snyder, H. R., Jr.; Seehausen, P. H., J. Heterocycl. Chem., 10: 385-6 (1973)) was annulated according to Procedure H (8 equiv sodium; aldehyde and azido-acetic acid ethyl ester added as ethanol solution (0.9 M of ester); condensation reaction mixture allowed to warm to room temperature, stirred for 1 h, quenched at −40° C., diluted with water, and extracted with ether; acrylate not purified; crude furanopyrrole filtered before concentration).

reactant | 5-Chloro-furan-2-carbaldehyde | ClC1=CC=C(O1)C=O | C5H3ClO2
reactant | sodium | 8 equiv | [Na] | Na
reactant | azido-acetic acid ethyl ester | C(C)OC(CN=[N+]=[N-])=O | C4H7N3O2
solvent | ethanol | 0.9 M | C(C)O | C2H6O
product | 2-Chloro-4H-furo[3,2-b]pyrrole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(N1)C=C(O2)Cl | C9H8ClNO3
